US05840732
ii) Synthesis of 5-hexylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride
To a methanol solution of 1.73 g (4.5 mmol) of 5-hexylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione, 1 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring. After the solvent was distilled off, the residue was washed with ether to yield 1.73 g of an oily substance, which was then purified by recrystallization to yield 1.58 g (74%, white crystal) of the desired product.

reactant | 5-hexylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 4.5 mmol, 1.73 g | C(CCCCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C20H25N3O3S
reactant | hydrochloric acid ethyl acetate | 4N, 1 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-hexylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCCCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | InChI=1S/C20H25N3O3S.ClH/c1-2-3-4-5-10-17-19(24)23(20(25)27-17)13-6-7-15-26-16-9-8-12-22-14-11-21-18(16)22;/h8-12,14H,2-7,13,15H2,1H3;1H
